US09216978B2
2-Methoxy-6-oxo-4-(trifluoromethyl)-1,4,5,6-tetrahydropyridine-3-carbonitrile
With ice cooling, 7.47 g (138.39 mmol) of sodium methoxide in methanol (85 ml) were initially charged, and 6.04 g (91.44 mmol) of malononitrile were added. With stirring, 11.84 g (76.84 mmol) of methyl 4,4,4-trifluorocrotonate were then added dropwise, and the mixture was stirred at RT for 30 min and then heated at reflux for 1 h. Under reduced pressure, the mixture was then concentrated to dryness. Water was added to the residue, and the mixture was extracted four times with ethyl acetate. The combined organic phases were dried with sodium sulphate, filtered and concentrated. Further purification was carried out by chromatography on silica gel (cyclohexane/ethyl acetate 3:1). This gave 1.95 g of the title compound (11% of theory).

reactant | sodium methoxide | 138.39 mmol, 7.47 g | C[O-].[Na+]
reactant | malononitrile | 91.44 mmol, 6.04 g | C(CC#N)#N | C3H2N2
reactant | methyl 4,4,4-trifluorocrotonate | 76.84 mmol, 11.84 g | FC(/C=C/C(=O)OC)(F)F | C5H5F3O2
solvent | methanol | 85 ml | CO | CH4O
product | 2-Methoxy-6-oxo-4-(trifluoromethyl)-1,4,5,6-tetrahydropyridine-3-carbonitrile | COC=1NC(CC(C1C#N)C(F)(F)F)=O | C8H7F3N2O2
